US07282501B2
Step A: 2-Benzoylamino-succinic acid dimethyl ester
A mixture of benzoyl chloride (3.20 mL, 27.7 mmol), L-aspartic acid dimethyl ester (5.0 g, 25.2 mmol) and triethyl amine (5.3 mL, 38 mmol) in CH2Cl2 (50 mL) was stirred at ambient temperature for 2 h and diluted with water. The organic layer was dried (MgSO4), filtered, and concentrated. The residue was purified by silica gel chromatography (hexanes/EtOAc 1/1) to afford a white solid (5.3 g, 79%). MS (ESI) m/z 266 (M+H)+.

reactant | benzoyl chloride | 27.7 mmol, 3.20 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | L-aspartic acid dimethyl ester | 25.2 mmol, 5.0 g | COC([C@@H](N)CC(=O)OC)=O | C6H11NO4
reactant | triethyl amine | 38 mmol, 5.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Benzoylamino-succinic acid dimethyl ester | 5.3 g, 79% | COC(C(CC(=O)OC)NC(C1=CC=CC=C1)=O)=O | C13H15NO5
